US07737145B2
At −78° C., pentafluoroiodoethane (2.09 g, 8.51 mmol)) was condensed into a pressure bottle. Toluene (5 mL), 4-ethenylbenzenemethanol acetate (1 g, 5.67 mmol), and tributyltin hydride (1.53 mL, 5.67 mmol) were added. The pressure bottle was sealed and irradiated for 30 hours using a 75 W lamp. The solvent was removed in vacuo. Flash chromatography of the residue gave 525 mg of 4-(3,3,4,4,4-pentafluorobutyl)benzenemethanol acetate; 1H NMR (300 MHz, CDCl3) δ 7.32 (d, 2H), 7.21 (d, 2H), 5.09 (s, 2H), 2.91 (m, 2H), 2.32 (m, 2H), 2.10 (s, 3H) ppm.

reactant | pentafluoroiodoethane | 8.51 mmol, 2.09 g | FC(C(I)(F)F)(F)F | C2F5I
reactant | 4-ethenylbenzenemethanol acetate | 5.67 mmol, 1 g | C(C)(=O)OCC1=CC=C(C=C1)C=C | C11H12O2
reactant | tributyltin hydride | 5.67 mmol, 1.53 mL | C(CCC)[SnH](CCCC)CCCC
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3,3,4,4,4-pentafluorobutyl)benzenemethanol acetate | 525 mg | C(C)(=O)OCC1=CC=C(C=C1)CCC(C(F)(F)F)(F)F | C13H13F5O2
